US08202873B2
3′-(4-Fluorophenyl)-4-(1-isopropyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Prepare the title compound using the methods of Example 135 starting with [3′-(4-fluorophenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-(1-isopropyl-1H-pyrazol-4-yl)-methanone (94 mg, 47%). Dissolve the free base (0.087 g, 0.229 mmol) in methanol and add a solution of ammonium chloride (0.012 g, 0.229 mmol) in a minimal volume of methanol. Shake for 18 hr. at room temperature and concentrate to give the title compound (94 mg, 99%). MS (ES): m/z=381 [M+H]+.

reactant | [3′-(4-fluorophenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-(1-isopropyl-1H-pyrazol-4-yl)-methanone | 94 mg | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)C(=O)C=1C=NN(C1)C(C)C | C21H23FN6O
reactant | ammonium chloride | 0.229 mmol, 0.012 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 3′-(4-Fluorophenyl)-4-(1-isopropyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 94 mg, 99% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C(C)C | InChI=1S/C21H25FN6.ClH/c1-16(2)28-15-17(13-25-28)14-26-9-11-27(12-10-26)21-20(23-7-8-24-21)18-3-5-19(22)6-4-18;/h3-8,13,15-16H,9-12,14H2,1-2H3;1H
